US07906645B2
N-Phenyl-4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxamide
tert-Butyl (3S)-3-{[4-(anilinocarbonyl)piperazin-1-yl]methyl}piperidine-1-carboxylate (4.0 g) was added to a mixture of dichloromethane (20 ml) and TFA (20 ml) and the reaction mixture stirred for 2 h. The solvent was removed in-vacuo and the residue dissolved in dichloromethane (20 ml) and subsequently poured into hydrochloric acid solution (1N, 20 ml). The aqueous layer was basified using potassium carbonate and extracted with dichloromethane (3×15 ml). The organic layer was dried using a phase separation cartridge and the solvent removed under reduced pressure to afford the desired compound as a white foam white (2.0 g), which was used without further purification.

reactant | tert-Butyl (3S)-3-{[4-(anilinocarbonyl)piperazin-1-yl]methyl}piperidine-1-carboxylate | 4.0 g | N(C1=CC=CC=C1)C(=O)N1CCN(CC1)C[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H34N4O3
reactant | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-Phenyl-4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxamide | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)C[C@H]1CNCCC1 | C17H26N4O
